US06569860B2
To a suspension of 8.75 g (0.0314 mole) of 5-bromo-2-phenyl-pyrimidine-4-carboxylic acid in 69 mL of concentrated ammonium hydroxide was added 0.39 g of copper (II) sulfate in 1.6 mL water. The mixture was sealed and heated to 80° C. for 6 days. After cooling to room temperature, and filtration, the solid was taken in 100 ml boiling water, filtered, cooled and acidified with acetic acid. Filtration and drying yielded 4.40 g of 5-amino-2-phenyl-pyrimidine-4-carboxylic acid as a tan solid, mp. 199-202° C.

reactant | 5-bromo-2-phenyl-pyrimidine-4-carboxylic acid | 0.0314 mole, 8.75 g | BrC=1C(=NC(=NC1)C1=CC=CC=C1)C(=O)O | C11H7BrN2O2
reactant | ammonium hydroxide | 69 mL | [OH-].[NH4+]
solvent | water | 1.6 mL | O | H2O
catalyst | copper (II) sulfate | 0.39 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 5-amino-2-phenyl-pyrimidine-4-carboxylic acid | 4.40 g | NC=1C(=NC(=NC1)C1=CC=CC=C1)C(=O)O | C11H9N3O2
